US07064124B2
N-[4-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-benzyloxybenzoyl]-4-methoxyaniline
p-Methoxyaniline (26 mg, 0.2113 mmol), triethylamine (29 mg, 0.2871 mmol) and 2-chloro-1,3-dimethylimidazolinium chloride (48 mg, 0.2840 mmol) were added to a methylene chloride solution (10 ml) of 4-(5,6-dimethoxy-1,4-benzoquinon-2-yl)methyl-2-benzyloxybenzoic acid (60 mg, 0.1421 mmol) and the resulting solution was stirred at room temperature for 3 hours. The reaction solution was poured into ice water and then extracted with ether. The extract was washed with water and then dried, and the solvent was removed by distillation. The obtained residue was purified by preparative thin-layer chromatography (hexand:ethyl acetate=1:1) to obtain the titled compound (55 mg, 0.1143 mmol, 73%).

reactant | p-Methoxyaniline | 0.2113 mmol, 26 mg | COC1=CC=C(N)C=C1 | C7H9NO
reactant | triethylamine | 0.2871 mmol, 29 mg | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-1,3-dimethylimidazolinium chloride | 0.2840 mmol, 48 mg | [Cl-].ClC1[NH+](CCN1C)C
reactant | 4-(5,6-dimethoxy-1,4-benzoquinon-2-yl)methyl-2-benzyloxybenzoic acid | 0.1421 mmol, 60 mg | COC=1C(C=C(C(C1OC)=O)CC1=CC(=C(C(=O)O)C=C1)OCC1=CC=CC=C1)=O | C23H20O7
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | N-[4-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-benzyloxybenzoyl]-4-methoxyaniline | 0.1143 mmol, 55 mg, 73% | COC=1C(C(=C(C(C1OC)=O)CC1=CC(=C(C(=O)NC2=CC=C(C=C2)OC)C=C1)OCC1=CC=CC=C1)C)=O | C31H29NO7
